US07417057B2
Step A Synthesis of (4-Methoxy-3-methylphenyl)formaldehyde as an Intermediate
A stirred solution of 180 mL (1.6 Molar in hexane: 0.29 mole) of n-butyllithium in 250 mL of THF was cooled to below −60° C., and a solution of 50 grams (0.26 mole) of 5-bromo-2-methoxytoluene (commercially available) was added at a rate to maintain the reaction mixture temperature below −55° C. Upon completion of addition, the reaction mixture was cooled to about −60° C. to −70° C. where it stirred for 70 minutes. After this time, 80 mL (0.99 mole) of DMF was added to the reaction mixture at a rate to maintain the reaction mixture temperature below −50° C. Upon completion of addition, the reaction mixture was poured into an aqueous dilute sodium chloride solution, and then it was extracted with two portions of diethyl ether. The combined extracts were washed with one portion of an aqueous dilute sodium chloride solution, with one portion of an aqueous saturated sodium chloride solution, and then dried with sodium sulfate. The mixture was filtered and the filtrate was concentrated under reduced pressure, yielding 35.7 grams of a residual oil. The oil was purified by column chromatography on silica gel using mixtures of hexane and ethyl acetate as eluant. The appropriate fractions of eluate were combined and concentrated under reduced pressure, yielding 23.2 grams of the subject compound. The NMR spectrum was consistent with the proposed structure.

reactant | n-butyllithium | 0.29 mole, 1.6 Molar, 180 mL | C(CCC)[Li]
reactant | 5-bromo-2-methoxytoluene | 0.26 mole, 50 grams | BrC=1C=CC(=C(C1)C)OC | C8H9BrO
reactant | DMF | 0.99 mole, 80 mL | CN(C)C=O | C3H7NO
reactant | sodium chloride | [Cl-].[Na+]
solvent | THF | 250 mL | C1CCOC1 | C4H8O
product | (4-Methoxy-3-methylphenyl)formaldehyde | 35.7 grams | COC1=C(C=C(C=C1)C=O)C | C9H10O2
